US07807607B2
b. Preparation of N,N-dipropyl-3-amino-4-methylbenzamide
Crude N,N-dipropyl-4-methyl-3-nitrobenzamide (16.35 g, nominally 61.9 mmol) was dissolved in ethanol (125 mL). To this solution was added iron powder (11.34 g, 200 mmol), then, with rapid stirring, was added 12N hydrochloric acid (42 mL) at such a rate as to maintain a temperature of 75° C. (required 10 minutes). The solution was stirred at 75° C. for an additional 10 minutes, then quenched into water (500 mL). This slurry was made basic (pH 14) by addition of aqueous potassium hydroxide. The resulting pudding-like slurry was stirred with ethyl acetate (300 mL) and filtered (slow). The organic layer of the filtrate was dried (K2CO3) and evaporated to a thick oil that solidified overnight to provide 14.27 g (98.5%) of a wa xy solid that was characterized by proton nmr.

reactant | N,N-dipropyl-4-methyl-3-nitrobenzamide | C(CC)N(C(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O)CCC | C14H20N2O3
reactant | hydrochloric acid | 12N, 42 mL | Cl | ClH
solvent | ethanol | 125 mL | C(C)O | C2H6O
catalyst | iron | 200 mmol, 11.34 g | [Fe] | Fe
product | N,N-dipropyl-3-amino-4-methylbenzamide | 14.27 g, 98.5% | C(CC)N(C(C1=CC(=C(C=C1)C)N)=O)CCC | C14H22N2O
